US09062076B2
To a stirred solution of 2-iodo-4,5-dimethoxybenzoic acid (24.6 g, 80 mmol), ethyl 2-aminoacetate hydrochloride (11 g, 88 mmol), EDCl (17 g, 88 mmol) and HOBt (14 g, 88 mmol) in dry DCM (500 mL) was added Et3N (55 mL, 400 mmol) dropwise at rt. The resulting mixture was stirred at room temperature overnight then the reaction was quenched with water, and thoroughly extracted with DCM. The combined organic phases were washed with brine and dried over sodium sulfate. The solvent was removed under reduced pressure and the residue was purified by flash chromatography using petroleum ether/ethyl acetate 3:1 (v:v) as eluent to give ethyl 2-(2-iodo-4,5-dimethoxybenzamido)acetate (29 g, 95%).

reactant | 2-iodo-4,5-dimethoxybenzoic acid | 80 mmol, 24.6 g | IC1=C(C(=O)O)C=C(C(=C1)OC)OC | C9H9IO4
reactant | ethyl 2-aminoacetate hydrochloride | 88 mmol, 11 g | Cl.NCC(=O)OCC
reactant | EDCl | 88 mmol, 17 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 88 mmol, 14 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Et3N | 400 mmol, 55 mL | CCN(CC)CC | C6H15N
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
product | ethyl 2-(2-iodo-4,5-dimethoxybenzamido)acetate | 29 g, 95% | IC1=C(C(=O)NCC(=O)OCC)C=C(C(=C1)OC)OC | C13H16INO5
